// Aim  : Plot transfer characteristic and output characteristic of NMOS and PMOS using ngspice

.title NMOS_Transfer_Characteristic_90nm_U24ec025
.include cmos_90nm.txt

m1 d g 0 0 nmos w=32u l= 90nm
vgs g 0 1.2
vds d 0 1.2

.dc vgs 0.5 1.2 0.02 vds 0 1.2 0.6

*.dc vds 0 1.2 0.02 vgs 0 1.2 0.3

.control

set color0 = white
set color1 = black

set xbrushwidth = 3
set hcopydevtype = svg
run 
plot -I(vgs)
plot -I(vds)
hardcopy output\NMOS_Transfer_Characteristics_90nm.svg -I(vgs)
.endc
.end

