.title initial_condition_U24EC025

vin in 0 1V

c1 out 0 1p ic =3v
*capacitor is connected between out and 0(gound)
r1 in out 2k
*resistor is connected between in and out

.tran 1ns 50ns UIC
*.tran 20ps 800ps
.control
set hcopydevtype=svg
set color0 = white
set color1 = black
set xbrushwidth = 3
run 
plot v(in)
plot v(out)
plot v(in, out)
plot v(out) v(in) v(in, out)
hardcopy out\pwl_vsource1.svg v(in) v(out) v(in, out)
.endc
.end
