// Aim  : CMOS MUX 2x1

.title CMOS_MUX_65nm_U24EC025
.include cmos_65nm.txt

* --- Inverter (Generates S_bar) ---
* drain gate source bulk model
m5 inv_S S Vdd Vdd pmos w=400nm l=65nm
m6 inv_S S 0   0   nmos w=100nm l=65nm

* --- Transmission Gate for Input B (Passes when S=0) ---
m1 B inv_S  Vout Vdd pmos w=400nm l=65nm  ; PMOS gets S (on when 0)
m2 B S      Vout 0   nmos w=100nm l=65nm  ; NMOS gets inv_S (on when 0)

* --- Transmission Gate for Input A (Passes when S=1) ---
m3 A S  Vout Vdd pmos w=400nm l=65nm  ; PMOS gets inv_S (on when 1)
m4 A inv_S     Vout 0   nmos w=100nm l=65nm  ; NMOS gets S (on when 1)
 
* --- Power and Sources ---
VDD Vdd 0 1.2
V_S S 0 PULSE(0 1.2 0ns 0.1us 0.1us 40us 80us)
V_A A 0 PULSE(0 1.2 0ns 0.1us 0.1us 20us 40us)
V_B B 0 PULSE(0 1.2 0ns 0.1us 0.1us 5us 10us)
.tran 1ns 100us

.control
set color0 = white
set color1 = black
set xbrushwidth = 3


run
let A_shifted=V(A) + 6
let B_shifted=V(B) + 4
let S_shifted=V(S) + 2
plot v(Vout) A_shifted B_shifted S_shifted
.endc
.end
