// Aim  : Plot transfer characteristic of inverter NMOS

.title NMOS_inverter_with_active_load_Transfer_Characteristic_65nm_U24EC025
.include cmos_65nm.txt

m1 d_out g 0 0 nmos w=200nm l= 65nm
m2 Vdd g d_out Vdd pmos w=500nm l= 65nm
vgs g 0 1.2
VDD vdd 0 1.2

.dc vgs 0 1.2 0.02

.control
set color0 = white
set color1 = black
set xbrushwidth = 3
set hcopydevtype = svg
run
plot v(d_out) v(g) xlabel 'Transfer Characteristic for CMOS 65nm'
.endc
.end
