// Aim  : Plot transfer characteristic of inverter NMOS

.title NMOS_inverter_Transient_Characteristic_65nm_U24EC025
.include cmos_65nm.txt

.param variable = 1.2

m1 d_out g 0 0 nmos w=200nm l= 65nm
m2 Vdd g d_out Vdd pmos w=500nm l= 65nm
VDD vdd 0 variable

vgs g 0 PULSE(0 variable 0.4ns 0.1ns 0.1ns 0.4ns 1ns)
.tran 0.01ns 2ns

.control
set color0 = white
set color1 = black
set xbrushwidth = 3
set hcopydevtype = svg
run
plot v(d_out) v(g) xlabel 'Transient analysis 1GHz'

* --- MEASUREMENT SECTION ---
* 1. Define 10% and 90% points
let vmin = 0
let vmax = 1.2
let v10 = 0.1 * (vmax - vmin)
let v90 = 0.9 * (vmax - vmin)

* 2. Measure Rise Time (10% to 90% of the 1st rising edge)
meas tran rise_time TRIG v(d_out) VAL=v10 RISE=1 TARG v(d_out) VAL=v90 RISE=1

* 3. Measure Fall Time (90% to 10% of the 1st falling edge)
meas tran fall_time TRIG v(d_out) VAL=v90 FALL=1 TARG v(d_out) VAL=v10 FALL=1

* Measure TPHL: High-to-Low transition (Output)
meas tran tphl TRIG v(g) VAL=0.6 RISE=1 TARG v(d_out) VAL=0.6 FALL=1

* Measure TPLH: Low-to-High transition (Output)
meas tran tplh TRIG v(g) VAL=0.6 FALL=1 TARG v(d_out) VAL=0.6 RISE=1


.endc
.end
