// Aim  : CMOS MUX 4x1

.title CMOS_MUX_65nm_U24EC025
.include cmos_65nm.txt

* --- Inverter (Generates S_bar) ---
* drain gate source bulk model
m5 inv_S0 S0 Vdd Vdd pmos w=400nm l=65nm
m6 inv_S0 S0 0   0   nmos w=100nm l=65nm
m7 inv_S1 S1 Vdd Vdd pmos w=400nm l=65nm
m8 inv_S1 S1 0   0   nmos w=100nm l=65nm

* ---1st Transmission Gate for Input A (Passes when S0=0) ---
m1 A inv_S0  Vout_AB Vdd pmos w=400nm l=65nm  ; PMOS gets S (on when 0)
m2 A S0      Vout_AB 0   nmos w=100nm l=65nm  ; NMOS gets inv_S (on when 0)
* ---2nd Transmission Gate for Input A (Passes when S1=0) ---
m3 Vout_AB inv_S1  Vout Vdd pmos w=400nm l=65nm  ; PMOS gets S1 (on when 0)
m4 Vout_AB S1      Vout 0   nmos w=100nm l=65nm  ; NMOS gets inv_S1 (on when 0)

* ---1st Transmission Gate for Input B (Passes when S0=1) ---
m9 B S0      Vout_AB Vdd pmos w=400nm l=65nm  ; PMOS gets S (on when 1)
m10 B inv_S0  Vout_AB 0   nmos w=100nm l=65nm  ; NMOS gets inv_S (on when 1)
* ---2nd Transmission Gate for Input B (Passes when S1=0) ---
m11 Vout_AB inv_S1  Vout Vdd pmos w=400nm l=65nm  ; PMOS gets S1 (on when 0)
m12 Vout_AB S1      Vout 0   nmos w=100nm l=65nm  ; NMOS gets inv_S1 (on when 0)

* ---1st Transmission Gate for Input C (Passes when S0=0) ---
m13 C inv_S0  Vout_CD Vdd pmos w=400nm l=65nm  ; PMOS gets S (on when 0)
m14 C S0      Vout_CD 0   nmos w=100nm l=65nm  ; NMOS gets inv_S (on when 0)
* ---2nd Transmission Gate for Input A (Passes when S1=0) ---
m15 Vout_CD S1      Vout Vdd pmos w=400nm l=65nm  ; PMOS gets S1 (on when 1)
m16 Vout_CD inv_S1  Vout 0   nmos w=100nm l=65nm  ; NMOS gets inv_S1 (on when 1)

* ---1st Transmission Gate for Input A (Passes when S0=0) ---
m17 D S0          Vout_CD Vdd pmos w=400nm l=65nm  ; PMOS gets S (on when 1)
m18 D inv_S0      Vout_CD 0   nmos w=100nm l=65nm  ; NMOS gets inv_S (on when 1)
* ---2nd Transmission Gate for Input A (Passes when S1=0) ---
m19 Vout_CD S1      Vout Vdd pmos w=400nm l=65nm  ; PMOS gets S1 (on when 1)
m20 Vout_CD inv_S1  Vout 0   nmos w=100nm l=65nm  ; NMOS gets inv_S1 (on when 1)

 
* --- Power and Sources ---
VDD Vdd 0 1.2
V_S1 S1 0 PULSE(0 1.2 0ns 0.1us 0.1us 40us 80us)
V_S0 S0 0 PULSE(0 1.2 0ns 0.1us 0.1us 20us 40us)
V_A A 0 PULSE(0 1.2 0ns 0.1us 0.1us 10us 20us)
V_B B 0 PULSE(0 1.2 0ns 0.1us 0.1us 5us 10us)
V_C C 0 PULSE(0 1.2 0ns 0.1us 0.1us 2.5us 5us)
V_D D 0 PULSE(0 1.2 0ns 0.1us 0.1us 1.25us 2.5us)
.tran 1ns 100us

.control
set color0 = white
set color1 = black
set xbrushwidth = 3


run
let A_shifted=V(A) + 12
let B_shifted=V(B) + 10
let C_shifted=V(C) + 8
let D_shifted=V(D) + 6
let S1_shifted=V(S1) + 4
let S0_shifted=V(S0) + 2
plot v(Vout) A_shifted B_shifted C_shifted D_shifted S1_shifted S0_shifted
.endc
.end