.title CMOS_NOR_Transient_65nm_U24EC025
.include cmos_65nm.txt

* --- 2-Input NOR Netlist ---
m1 vout vinA v1 0 nmos w=100u l=65nm
m2 v1 vinB 0 0 nmos w=100u l=65nm

m3 vout vinA vdd vdd pmos w=400u l=65nm
m4 vout  vinB vdd vdd pmos w=400u l=65nm

* Cload vout 0 10f

* --- Sources ---
VDD vdd 0 1.2

* Staggered pulses so we can see all 4 logic states (00, 01, 10, 11)
* Format: PULSE(Vlow Vhigh Tdelay Trise Tfall Twidth Tperiod)
va vinA 0 PULSE(0 1.2 0ns 0.1ns 0.1ns 10ns 20ns)
vb vinB 0 PULSE(0 1.2 0ns 0.1ns 0.1ns 20ns 40ns)

.tran 0.01ns 80ns

.control
run

* --- Propagation Delay Measurements ---
* Capturing the transition where the gate actually switches
meas tran tphl TRIG v(vinA) val=0.6 rise=1 TARG v(vout) val=0.6 fall=1
meas tran tplh TRIG v(vinA) val=0.6 fall=2 TARG v(vout) val=0.6 rise=1

let tpd = (tphl + tplh) / 2
print tphl tplh tpd

* --- Enhanced Visualization ---
* We create "offset" vectors to stack the graphs vertically
let out_plot = v(vout) 
let A_plot   = v(vinA) + 1.5
let B_plot   = v(vinB) + 3

set color0 = white
set color1 = black
set xbrushwidth = 2

plot out_plot A_plot B_plot
.endc
.end
