* ECL NOT Gate with Emitter Follower Output
* Correct ECL output: HIGH~-0.7V, LOW~-1.8V

.title ECL_NOT_Gate

.model Qa NPN (BF=100)

* Differential pair
Q1 c1 b1 e Qa
Q2 c2 vb e Qa

* Emitter follower output stage (fixes output swing to proper ECL levels)
Q3 0 c1 not_out Qa

* Collector load resistors
R1 c1 0 300
R2 c2 0 200

* Emitter resistors
Re     e       vee 1k
Rf     not_out vee 1500

* Power supply
VEE vee 0 -5.2

* Reference voltage (note: source named Vref, node named vb - avoids name clash)
Vref vb 0 -1.3

* Input: ECL pulse LOW=-1.8V HIGH=-0.8V
Vin b1 0 PULSE(-1.8 -0.8 0n 0.1n 0.1n 4n 8n)

.tran 0.1n 20n

.control
set color0 = white
set color1 = black
set xbrushwidth = 3
set hcopydevtype = svg
run
plot v(b1) v(not_out)
.endc

.end