// Aim  : Plot transfer characteristic of inverter NMOS

.title NMOS_inverter_Transfer_Characteristic_65nm_U24EC025
.include cmos_65nm.txt

m1 d_out g 0 0 nmos w=200nm l= 65nm
m2 Vdd Vdd d_out 0 nmos w=25nm l= 65nm
//vgs g 0 1.2
VDD vdd 0 1.2
c1 d_out 0 1n

//.dc vgs 0 1.2 0.01
vgs g 0 PULSE(0 1.2 20ms 10ms 10ms 30ms 80ms)
.tran 1ms 200ms

.control
set color0 = white
set color1 = black
set xbrushwidth = 3
set hcopydevtype = svg
run
plot v(d_out) v(g) xlabel 'With capacitor'
.endc
.end
